US04129653
2-Carbethoxypyrrolo[1,2-c]quinazoline:
A solution of ethyl bromopyruvate (3.2g, 0.016 m) and 4-methylquinazoline (2.0g, 0.014 m) in dry ethanol (150 ml) was heated at reflux for two hours. During this time, a tan solid formed. Excess ethyl bromopyruvate was added (1.0g) and the reaction mixture was allowed to reflux overnight. After this time, the reaction was complete. The alcohol was removed in vacuo and the residue diluted with H2O. Sodium bicarbonate was added until effervescence ceased and the aqueous mixture extracted with ether. The ether extracts were combined, dried over Na2SO4, filtered and the solvent removed in vacuo to yield a tan solid. Crystallization from MeOH afforded the product as a white solid; m.p. 138°-139° C.

reactant | ethyl bromopyruvate | 3.2g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 4-methylquinazoline | 2.0g | CC1=NC=NC2=CC=CC=C12 | C9H8N2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Carbethoxypyrrolo[1,2-c]quinazoline | C(=O)(OCC)C=1C=C2N(C=NC=3C=CC=CC23)C1 | C14H12N2O2
